US08383637B2
3-(3-Formyl-4-nitro-phenoxy)-benzonitrile
A mixture of 3-(3-dimethoxymethyl-4-nitro-phenoxy)-benzonitrile (0.068 mol) in THF (140 ml) was stirred at room temperature, then 12N HCl (55 ml) and water (55 ml) were added and the reaction mixture was stirred overnight at room temperature. The mixture was stirred in H2O and extracted with DIPE. The organic layer was separated, washed with a 10% NaHCO3 solution, separated again, dried, filtered off and the solvent was evaporated. The obtained residue was stirred in DIPE, then the desired product was filtered off and dried to yield the title compound as a residue.

reactant | 3-(3-dimethoxymethyl-4-nitro-phenoxy)-benzonitrile | 0.068 mol | COC(C=1C=C(OC=2C=C(C#N)C=CC2)C=CC1[N+](=O)[O-])OC | C16H14N2O5
reactant | HCl | 12N, 55 ml | Cl | ClH
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | water | 55 ml | O | H2O
product | 3-(3-Formyl-4-nitro-phenoxy)-benzonitrile | C(=O)C=1C=C(OC=2C=C(C#N)C=CC2)C=CC1[N+](=O)[O-] | C14H8N2O4
